US04826866
3-(Cyclohexylamino)-5-methyl-1H-pyrazole-4-carboxylic acid
A solution of 2 g (0.007 mole) of 3-cyclohexylamino-5-methyl-1H-pyrazole-4-carboxylic acid, ethyl ester hydrochloride [1:1] in 30 mL of ethanol was treated with 5 mL of 50% sodium hydroxide solution, 20 mg of tetrabutylammonium bromide and stirred rapidly while heating at reflux. After 20 hr the reaction mixture was diluted with ice water, extracted with 6×100 mL of isopropyl ether, the pH adjusted to 7 with concentrated sulfuric acid and to pH 5.5 with 10 g of sodium dihydrogen phosphate. The fine precipitate was collected by filtration to give 0.6 g of beige powder, mp 162°-163° C. (degasses).

reactant | 3-cyclohexylamino-5-methyl-1H-pyrazole-4-carboxylic acid, ethyl ester hydrochloride | 0.007 mole, 2 g | Cl.C1(CCCCC1)NC1=NNC(=C1C(=O)OCC)C
reactant | sodium hydroxide | 5 mL | [OH-].[Na+]
solvent | ethanol | 30 mL | C(C)O | C2H6O
catalyst | tetrabutylammonium bromide | 20 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 3-(Cyclohexylamino)-5-methyl-1H-pyrazole-4-carboxylic acid | 0.6 g | C1(CCCCC1)NC1=NNC(=C1C(=O)O)C | C11H17N3O2
